Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I've been having bad thoughts"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ note from ___: Pt is a ___ yo male 
freshman at ___ with no prior 
psychiatric history coming in with 3 weeks of depressive 
symptoms and suicidal ideation with plan. Pt reports that 4 
weeks ago he started classes in a music program at ___ 
and realized they were "not what I thought they were going to 
be" and found his classwork boring, around the same time he also 
reports being broken up with by his girlfriend of one year. In 
the wake of the breakup, he became increasingly anxious around 
her to the point where he avoids any contact with her. Since 
this time, the patient has had increased feelings of loneliness, 
episodic anxiety, a depressed mood and anhedonia. He was started 
on 10 mg of Prozac by his pediatrician and had not yet noted any 
improvement in his mood. Over the last week, he has had daily 
thoughts of ending his life. He researched methods to end his 
life on the internet and decided he would put a plastic bag over 
his head. He had decided on the location where he would end his 
life and thought about what he would write in a suicide note. He 
states he "doesn't think he has much to look forward to in life" 
and "is afraid in life of making one big slip up and being a 
total looser." He shared these thoughts with his best friend 
___ and his pediatrician, who told him to come the Emergency 
Department, which he thinks is a good idea.

The patient reports previous periods of depressed mood starting 
in middle school related to feelings of social isolation. 

He denies current SI. He denies HI, AVH, paranoia and ideas of 
reference.

During our conversation today he shared with me that he feels 
that his school is very depressing, grooming. Attributes the 
worsening of his depression to him starting college there. He is 
hoping to transfer to either ___ ___ or to do an apprenticeship 
at the ___. He has become more active recently, 
started going to a boxing club with his brother, joint a war 
game group on ___ and has been enjoying working on his 
portfolio for his potential transfer to mass art.

COLLATERAL

Pt's mother ___ ___ Mother states 
___ has always had issues with social anxiety, bullying, and 
loneliness. Pt's mother states she was not aware that her son 
had been in a romantic relationship. She states he saw a 
therapist in ___ grade for a year because of social anxiety and 
bullying. He had an IEP due to some intellectual delay diagnosed 
at age ___, but since ___ has been performing as an average 
student. Despite SI, mother state's patient is future oriented, 
with a plan to transfer to Mass Art because he dislikes ___ 
___. 
 
Past Medical History:
Past psychiatric history:
 - Past diagnoses: denies
 - Hospitalizations: denies
 - Psychiatrist & Therapist: pending search for therapist, 
pediatrician prescribes psych meds    
 - Medication and ECT trials (reason for d/c if known): Prozac
 - Self-injury/Suicide attempts: denies self injury and previous
attempts
 - Trauma: denies

Past medical history:
Childhood seizure
Childhood asthma
WPW post ablation

Allergies: NKDA
 
Social History:
Substance use history:
 - EtOH: occasional use, no binge drinking
 - Tobacco: denies
 - Cannabis: ___ joints once per month
 - Illicits: denies

Personal and Social History:
Pt lives with mother (homemaker), father (___)and two 
younger
siblings (___ and ___) in ___. He has one older brother who is
___ years old and goes to ___. Pt gets along with family but
has little interaction with younger siblings. He reports a happy
and uneventful childhood. 

Pt is a ___ at ___ in his first month of
___ and finding it difficult to adjust. Reports
significant social isolation in college and boredom with his
schoolwork (was hoping for more playing music and less music
theory and classroom work). Likes guitar, piano. 

FORENSIC HISTORY:
 - Arrests: denies
 - Convictions and jail terms: denies
 - Current status (pending charges, probation, parole): denies
 - Access to guns: denies
 
Family History:
Family psychiatric history:
 - ___ Dx: father - depression, brother with anxiety
 - ___ Hospitalizations: denies
 - ___ Treatment Hx/Med Trials: Prozac
 - ___ Hx Suicide: none
 - ___ Hx Substance: father and paternal uncles with alcohol use 
disorder in remission
 
Physical Exam:
*VS: ___ 1344 Temp: 98.5 PO BP: 127/81 HR: 80 RR: 16 O2 
sat:
98% 

- GENERAL: awake, cooperative, NAD
- HEENT: normocephalic, atraumatic, moist mucous membranes, no
scleral icterus
- Cardiovascular:regular rate, well perfused
- Pulmonary: breathing comfortably on room air, no increased 
work
of breathing
- Abdominal: soft, non-distended, no guarding, no masses or
organomegaly
- Extremities: no cyanosis, clubbing, or edema bilaterally
- Skin: no rashes or lesions noted

  Neurological:
 - Station and Gait: not observed; patient evaluated in ED bed
 - Strength: normal bulk; moves all extremities anti-gravity
 - Abnormal Movements: no tics, tremors, evidence of EPS
 - Cranial Nerves: EOMI, nasolabial folds symmetric, palate
   elevates symmetrically, tongue protrudes midline

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 1 error
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS):  not
formally tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min 
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "Obama, ___
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Even monkeys fall from trees" = "Even people who are
experts can make mistakes"
     - bicycle/train: transportation
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

  *Appearance: Stated age, thin, longer hair
  Behavior: friendly, cooperative
  *Mood and Affect: "Depressed", depressed, withdrawn
*Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
*Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present):
  *Judgment and Insight: Intact

Data reviewed (including outside records, internal records, 
labs,
studies, and medications): No abnormalities
 
Pertinent Results:
___ 06:49PM BLOOD WBC-6.5 RBC-4.81 Hgb-13.7 Hct-42.9 MCV-89 
MCH-28.5 MCHC-31.9* RDW-13.8 RDWSD-44.5 Plt ___
___ 06:49PM BLOOD Neuts-54.9 ___ Monos-5.9 Eos-4.6 
Baso-0.3 Im ___ AbsNeut-3.55 AbsLymp-2.20 AbsMono-0.38 
AbsEos-0.30 AbsBaso-0.02
___ 06:49PM BLOOD Glucose-109* UreaN-13 Creat-0.9 Na-141 
K-3.9 Cl-105 HCO3-24 AnGap-12
___ 06:49PM BLOOD TSH-1.3
___ 06:49PM BLOOD Trep Ab-NEG
___ 06:49PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:22PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:22PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 08:22PM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-0
___ 08:22PM URINE Mucous-FEW*
___ 08:22PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout. Patient was initially unit restricted, 
but liberalized to group walks given improvement in mood and 
suicidality, and remained in behavioral control. No security 
intervention or restraints. 

2. PSYCHIATRIC:
 #) Major depressive disorder, severe, without psychotic 
features
 #) Social anxiety disorder
 1) Upon admission, patient was noted to be dysphoric, anxious, 
withdrawn, with decreased eye contact. He endorsed worsened 
suicidal ideation with plan to hang himself. He cited main 
stressors of struggling with his current community college and 
wishing he were admitted to ___ school; and the termination of a 
romantic relationship. 
 2) Diagnostically, presentation appeared consistent with MDD, 
given prolonged depressive symptoms, neurovegetative symptoms, 
suicidality, and hopelessness. He does have mild intellectual 
disability, and with his recent transition to college, academic 
stressors were concerning for possible adjustment disorder. 
However, his mood symptoms appear to have predated his college 
enrollment, tied to prior relationship disappointment and 
ongoing struggles with social anxiety.  There is a family 
history of depression, anxiety, and alcohol use disorder. 
Patient is using cannabis and alcohol sporadically, and felt 
unlikely to contribute significantly to mood. 
 3) Intervention included medication titration of fluoxetine to 
20mg po qday, which patient tolerated well without side effect. 
He was offered PRN hydroxyzine 25mg po qhs for sleep with good 
effect. Home PRN lorazepam was held during admission without 
significant distress. 
 4) Outcome: Patient noted to be brighter and more engaged 
throughout hospital stay, beginning to participate 
conscientiously in groups. He endorsed resolution of suicidal 
thoughts, and improvement in anxiety and depression. Patient was 
able to safety plan, including newly learned coping skills, 
reaching out to friends and family, and agreed to contact 
suicide hotline or return to ED if suicidal urges recurred and 
intensified. 
 5) Recommendations: Patient certainly has room for continued 
fluoxetine titration. Given that he has a family history of 
alcohol use disorder, would consider discontinuing PRN 
benzodiazepine or monitor closely for misuse. If utilized 
appropriately, could be beneficial in certain situations for 
social anxiety. We also recommended that patient consider 
partial hospitalization programs, as he tended to find groups 
quite helpful and seemed able to engage with peers, overcoming 
social anxiety.  

3. SUBSTANCE USE DISORDERS:
 #) Cannabis use: Reports monthly use. Provided psychoeducation, 
continue to address as outpatient. 

4. MEDICAL: 
No acute medical needs. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. ___ was a quiet but attentive 
participants in groups, but rarely socialized with peers. He 
tended to be more isolative, keeping to his room, but 
appropriately engaged with staff on approach. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
We arranged for a family meeting with patient's mother prior to 
discharge. Discussed discharge and aftercare plan with mother, 
and she was amenable and offered to provide transportation for 
patient's follow-up appointments. His parents were able to visit 
the patient on the unit. Collateral was obtained from his 
mother. Patient had no previous mental health providers prior to 
admission. 

 #) INTERVENTIONS
 - Medications: increased fluoxetine to 20mg po qday; PRN 
hydroxyzine 25mg po qhs while inpatient 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: Referred to outpatient therapy. 
PCP to continue prescribing SSRI. 
 - Behavioral Interventions: safety planning, coping skills
 -Guardianships: none

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon suicidal ideation 
with plan to hang himself. Their static factors noted at that 
time include chronic depression/social anxiety, male gender,  
age. The modifiable risk factors addressed included medication 
titration, connection to outpatient providers, improving coping 
skills and distress tolerance, and discussing prior romantic 
loss and academic stressors. Finally, the patient is being 
discharged with many protective risk factors, including a 
supportive family, medication adherence, future-oriented and 
linear thinking, no prior suicide attempts, no access to lethal 
weapons, and resolution of suicidal ideation. Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 10 mg PO DAILY 
2. LORazepam 0.5 mg PO Q8H:PRN Anxiety 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth once a day Disp #*15 
Capsule Refills:*0 
2.  LORazepam 0.5 mg PO Q8H:PRN Anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder
social anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
MENTAL STATUS:
 *Appearance: no acute distress; thin, appears stated
age, slightly disheveled, long hair, dressed casually
 *Behavior: calm, cooperative, reserved, pleasant. improved
eye contact.  
 *Mood and Affect: 'good' / euthymic, mood-congruent
 *Thought process / *associations: linear, goal-direct, 
coherent.
no looseness of associations. 
 *Thought Content: denies SI. patient participated in safety 
planning (agrees to reach out to family, friends, providers or 
return to ED/call ___. no HI, AVH voiced. not responding
to internal stimuli. no delusions elicited.
 *Judgment and Insight: fair / fair
.
COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: oriented
 *Memory: long-term grossly intact
 *Speech: fluent, spontaneous, clear. normal volume, rate, tone,
prosody. 
 *Language: fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___